US04487945
(±)-4-Methyl-1-(1-methoxy-1-methylethyl)-3-cyclohexen-1-ol
To a stirred solution of 0.8 g of p-toluenesulfonic acid in 125 ml of methanol held at 3°-5° C. was added dropwise over 0.5 hour a solution of 15.2 g of 2,2,6-trimethyl-1-oxaspiro(2.5)oct-5-ene in 25 ml of methanol. After an additional 2 hours at 5° C. and 2 hours at 5°-20° C., the mixture was treated with 2 ml of 15% sodium hydroxide and concentrated at a water pump at below 60° C. The residue was dissolved in methylene chloride, washed, dried and Claisen-distilled to give 15.6 g of the desired product, b.p. 70° C. (0.2 mm).

reactant | p-toluenesulfonic acid | 0.8 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 2,2,6-trimethyl-1-oxaspiro(2.5)oct-5-ene | 15.2 g | CC1(OC12CC=C(CC2)C)C | C10H16O
reactant | sodium hydroxide | 2 ml | [OH-].[Na+]
solvent | methanol | 125 ml | CO | CH4O
solvent | methanol | 25 ml | CO | CH4O
product | (±)-4-Methyl-1-(1-methoxy-1-methylethyl)-3-cyclohexen-1-ol | 15.6 g | CC1=CCC(CC1)(O)C(C)(C)OC | C11H20O2
